US04032524
10.4 g. (0.08 mole) of 5-fluorouracil and 10.0 g. (0.176 mole) of methyl isocyanate were mixed in 100 ml. of dimethyl sulfoxide and stirred at room temperature. Dimethyl sulfoxide and excess methyl isocyanate were removed from the reaction mixture by distillation. The resultant residue was washed with chloroform and dried in a vacuum oven to give 15.8 g. (86.1% yield) of 5-fluoro-1-methylcarbamoyluracil. The product was recrystallized from ethyl acetate and there were obtained white crystals melting at 277° C.

reactant | 5-fluorouracil | 0.08 mole | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | methyl isocyanate | 0.176 mole | CN=C=O | C2H3NO
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 5-fluoro-1-methylcarbamoyluracil | 86.1% yield | FC=1C(NC(N(C1)C(NC)=O)=O)=O | C6H6FN3O3
